US06753429B2
Step D [4-(4-ethylpiperazinyl)phenyl]methan-1-ol
This compound was prepared in the manner of Step A, Example 5, using 0.4 gram (0.019 mole) of [4-(4-ethylpiperazinyl)benzaldehyde and 0.4 gram (0.01 mole) of sodium borohydride in 40 mL of absolute ethanol (available from J. T. Baker Inc.) The yield of the title compound was 0.3 gram. The NMR Spectrum was consistend with the proposed structure.

reactant | 4-(4-ethylpiperazinyl)benzaldehyde | C(C)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C13H18N2O
reactant | sodium borohydride | 0.01 mole, 0.4 gram | [BH4-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | [4-(4-ethylpiperazinyl)phenyl]methan-1-ol | C(C)N1CCN(CC1)C1=CC=C(C=C1)CO | C13H20N2O
